US05447957
a) Methyl 2-(2-nitro-4-trifluoromethylphenoxy)-4-methoxybenzoate
Methyl-4-methoxysalicylate (12.0 g, 0.066 mol), 4-chloro-3-nitrobenzotrifluoride (9.75 mL, 0.066 mol) and potassium carbonate (18.16 g, 0.131 mol) were mixed in dimethylformamide, under argon, at 150° C. for 16 h. The reaction mixture was filtered and the solvents evaporated. The residue was flash chromatographed (silica gel, ethyl acetate/hexane) to yield the title compound. 1H NMR (250 MHz, CDCl3) δ8.25 (d, 1H), 8.04 (d, 1H), 7.65 (dd, 1H), 6.91 (dd, 1H), 6.81 (d, 1H), 6.70 (d, 1H), 3.88 (s, 3H), 3.70 (s, 3H).

reactant | Methyl-4-methoxysalicylate | 0.066 mol, 12.0 g | COC(C=1C(O)=CC(=CC1)OC)=O | C9H10O4
reactant | 4-chloro-3-nitrobenzotrifluoride | 0.066 mol, 9.75 mL | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | potassium carbonate | 0.131 mol, 18.16 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Methyl 2-(2-nitro-4-trifluoromethylphenoxy)-4-methoxybenzoate | [N+](=O)([O-])C1=C(OC2=C(C(=O)OC)C=CC(=C2)OC)C=CC(=C1)C(F)(F)F | C16H12F3NO6
